US06448255B1
1-(4-Fluorophenyl)-3-oxo-1,3-dihydro-2-benzofuran-1-carboxamide
A mixture of 2-(4-fluorobenzoyl)benzoic acid (75 g), potassium cyanide (28 g), and glacial acetic acid (160 mL) was heated at 115-125 C. in a sealed pressure bottle for 48 h. After cooling to ambient temperature, the mixture was poured into ice water (1.5L). The solid was collected by filtration and crystallized from ethanol to give the title compound (42 g) as a white solid, m. p. 170-173° C. Mass spectrum (EI, M+) m/z 271.

reactant | 2-(4-fluorobenzoyl)benzoic acid | 75 g | FC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9FO3
reactant | potassium cyanide | 28 g | [C-]#N.[K+]
reactant | acetic acid | 160 mL | C(C)(=O)O | C2H4O2
product | 1-(4-Fluorophenyl)-3-oxo-1,3-dihydro-2-benzofuran-1-carboxamide | 42 g | FC1=CC=C(C=C1)C1(OC(C2=C1C=CC=C2)=O)C(=O)N | C15H10FNO3
